US05302720
A mixture of 2-aminobiphenyl (10.2 g), thiophosgene (10.4 g), dioxane (50 ml) and water (100 ml) was prepared with cooling in an ice bath. The temperature was raised to 30° C. and stirred for 3 hours at 30° C. to yield 2-biphenylylisothiocyanate as a yellow oil.

reactant | 2-aminobiphenyl | 10.2 g | NC1=C(C=CC=C1)C1=CC=CC=C1 | C12H11N
reactant | thiophosgene | 10.4 g | C(=S)(Cl)Cl | CCl2S
reactant | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | water | 100 ml | O | H2O
product | 2-biphenylylisothiocyanate | C=1(C(=CC=CC1)N=C=S)C1=CC=CC=C1 | C13H9NS
